US05877199
tert-Butyl [9-(4-Chlorobenzyl)-4-methyl-1-methylthiocarbazol-2-yl]acetate
Following a procedure and using relative proportions of starting materials similar to those described in Example 4, but using tert-butyl (4-methyl-1-methylthiocarbazol-2-yl)acetate and 4-chlorobenzyl chloride as starting materials, the title compound was obtained in a yield of 92% as an oil.

reactant | tert-butyl (4-methyl-1-methylthiocarbazol-2-yl)acetate | CC1=CC(=C(C=2NC3=CC=CC=C3C12)SC)CC(=O)OC(C)(C)C | C20H23NO2S
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | tert-Butyl [9-(4-Chlorobenzyl)-4-methyl-1-methylthiocarbazol-2-yl]acetate | yield of 92% | ClC1=CC=C(CN2C3=CC=CC=C3C=3C(=CC(=C(C23)SC)CC(=O)OC(C)(C)C)C)C=C1 | C27H28ClNO2S
